US04272541
(b) 4,5α-Epoxy-8β-ethyl-3-methoxy-17-methylmorphinan-6-one
To a solution of 4,5α-epoxy-3-methoxy-17-methyl-8β-vinylmorphinan-6-one (9.0 g) in 95% ethanol was added 2 ml of concentrated hydrochloric acid followed by 10% palladium/charcoal (1.0 g.). The mixture was hydrogenated at an initial pressure of 50 psi for 2.5 hours. The reaction mixture was filtered, the filtrate made acidic by the addition of hydrochloric acid and evaporated to a crystalline solid. The solid was recrystallized from ethyl acetate with the addition of ethanol to give, after drying, 8.7 g (90%) of the 8-ethyl product TR-5059.HCl, mp 285°-288° C.

reactant | 4,5α-epoxy-3-methoxy-17-methyl-8β-vinylmorphinan-6-one | 9.0 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5[C@H](CC([C@H]1[C@@]5(C23)CCN4C)=O)C=C)OC | C20H23NO3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/charcoal | 1.0 g | [Pd] | Pd
product | 4,5α-Epoxy-8β-ethyl-3-methoxy-17-methylmorphinan-6-one | O1C2=C(C=CC=3C[C@@H]4[C@@H]5[C@H](CC([C@H]1[C@@]5(C23)CCN4C)=O)CC)OC | C20H25NO3
